US04128540
To a mixture consisting of 19.4 g. of L-leucine, 15.7 g. of sodium carbonate, and 500 ml. of water, cooled to 0° C., is added a solution of 19.1 g. of 9-fluorenylmethylchloroformate in 200 ml. of tetrahydrofuran, and the resulting mixture is stirred at 0° C. for one hour and at room temperature for 15 hours. The mixtue is then acidified with 3 N hydrochloric acid and concentrated to remove the solvent. The residue is extracted with ethyl acetate, and the extract is washed with 100 ml. of 10% hydrochloric acid and with 100 ml. of water, dried, and evaporated to dryness to give a residue of N-9-fluorenylmethoxycarbonyl-L-leucine, which is slurried with n-hexane, isolated, and dried; m.p. 76°-79° C.; [α]D25 -28.7° (1.01% in methanol). To a mixture consisting of 15.2 g. of this intermediate product, 37 g. of pentachlorophenol, and 300 ml. of N,N-dimethylformamide, cooled to 5° C., is added 9.8 g. of dicyclohexylcarbodiimide, and the resulting mixture is kept at 4° C. for 2 days. It is then filtered, and the filtrate is evaporated to dryness to give a residue of N-9-fluoroenylmethoxycarbonyl-L-leucine pentachlorophenyl ester, which is triturated with n-hexane, isolated and dried; m.p. 119°-121° C.; [α]D25 -35.4° (1.00% in methanol).

reactant | L-leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 9-fluorenylmethylchloroformate | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)Cl | C15H11ClO2
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-9-fluorenylmethoxycarbonyl-L-leucine | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CC(C)C)C(=O)O | C21H23NO4
